US04963587
20.5 g of 2-acetylaminoindan is added gradually into 200 ml of fuming nitric acid under cooling. After the reaction, the reaction mixture is poured onto 100 g of ice, and the solvent is evaporated from the chloroform extract, and the residue is recrystallized from isopropyl alcohol to give 18.6 g of 2-acetylamino-5-nitroindan.

reactant | 2-acetylaminoindan | 20.5 g | C(C)(=O)NC1CC2=CC=CC=C2C1 | C11H13NO
reactant | nitric acid | 200 ml | [N+](=O)(O)[O-] | HNO3
product | 2-acetylamino-5-nitroindan | 18.6 g | C(C)(=O)NC1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C11H12N2O3
